US05347030
rac-1-O-Benzyl-2-O-methyl-3-O-tritylglycerol (6.73 g) and 80% HOAc (50 ml) were combined in a 100 ml flask and heated at reflux for three hours. The heat was removed and the reaction mixture was allowed to cool to room temperature. The reaction was neutralized with 10% KOH and extracted with ether. The ether layer was dried (MgSO4) before the solvent was removed in vacuo. Purification of the residue was obtained by column chromatography (150 ml silica gel; hexanes:ethyl acetate, gradient 5:1-0:1). The pure compound 14, rac-1-O-benzyl-2-O-methylglycerol, was obtained as a clear oil (1.84 g, 59.7% yield).

reactant | rac-1-O-Benzyl-2-O-methyl-3-O-tritylglycerol | 6.73 g | C(C1=CC=CC=C1)OCC(OC)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H30O3
solvent | HOAc | 50 ml | CC(=O)O | C2H4O2
product | rac-1-O-benzyl-2-O-methylglycerol | C(C1=CC=CC=C1)OCC(OC)CO | C11H16O3
